US07323455B2
7-(3-Chloro-4-fluoro-phenyl)-5-ethyl-5-thiophen-2-yl-1,5-dihydro-benzo[e][1,4]oxazepin-2-one
Prepared from 7-bromo-5-ethyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-chloro-4-fluorobenzeneboronic acid using the coupling procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.08 (s, 1H), 7.85 (dd, J=7.1, 2.2 Hz, 1H), 7.65 (m, 2H), 7.57 (dd, J=5.0, 1.0 Hz, 1H), 7.52 (m, 2H), 7.26 (d, J=8.5 Hz, 1H), 7.01 (m, 2H), 4.11 (d, J=15.4 Hz, 1H), 3.95 (d, J=15.4 Hz, 1H), 2.41 (m, 2H), 0.78 (t, J=7.0 Hz, 3H); MS (ES) m/z 400 (M−H)−.

reactant | 7-bromo-5-ethyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)CC)C1 | C15H14BrNO2S
reactant | 3-chloro-4-fluorobenzeneboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 7-(3-Chloro-4-fluoro-phenyl)-5-ethyl-5-thiophen-2-yl-1,5-dihydro-benzo[e][1,4]oxazepin-2-one | ClC=1C=C(C=CC1F)C1=CC2=C(NC(COC2(C=2SC=CC2)CC)=O)C=C1 | C21H17ClFNO2S
